US09304126B2
11-Chloro-dibenzo[b,f][1,4]thiazepine-3-carboxylic acid amide
A solution of 11-chloro-dibenzo[b,f][1,4]thiazepine-3-carbonyl chloride, prepared as described in the previous step, (ca 1.5 mmol) in dichloromethane (10 mL) was treated with a 1,4-dioxane solution of ammonia (0.5 M, 9 mL) under ice bath. The resulting suspension was stirred at room temperature for 1 hour, and the reaction was quenched with water (10 mL). The resulting precipitate was filtered, washed with water and dichloromethane, and dried. The organic layer of the filtrate was washed with saturated aqueous sodium bicarbonate solution and concentrated to additional off white product, which was used in the next step without additional purification. LC-MS: m/z 289 (M+1). 1H NMR (DMSO-d6, 400 MHz): δ (ppm) 8.19 (br, 1H), 8.00-7.96 (m, 2H), 7.90 (d, 1H), 7.64 (br, 1H), 7.56 (m, 1H), 7.47 (m, 1H), 7.31 (m, 2H).

reactant | 11-chloro-dibenzo[b,f][1,4]thiazepine-3-carbonyl chloride | ClC1=NC2=C(SC3=C1C=CC(=C3)C(=O)Cl)C=CC=C2 | C14H7Cl2NOS
reactant | 1,4-dioxane | O1CCOCC1 | C4H8O2
reactant | ammonia | 0.5 M, 9 mL | N | H3N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 11-Chloro-dibenzo[b,f][1,4]thiazepine-3-carboxylic acid amide | ClC1=NC2=C(SC3=C1C=CC(=C3)C(=O)N)C=CC=C2 | C14H9ClN2OS
